US03934008
6. Z-Val-Gly-Ala-Pro-OtBu
3.73 g of Z-Val-ONP and 2.99 g of H-Gly-Ala-Pro-OtBu in 12 ml of ethyl acetate are stirred for one hour at 0°C and 20 hours at room temperature. After dilution with ethyl acetate the mixture is washed with 50 % saturated potassium carbonate solution and water, dried over sodium sulphate and evaporated at 30°C in a waterpump vacuum. The oil is crystallised from methanol-water. Melting point 73°-75°C. In a thin layer chromatogram on silica gel Rf = 0.42 in the system tolueneacetone (1:1) and Rf = 0.46 in the system chloroform-methanol (9:1).

reactant | Z-Val-ONP | 3.73 g | CC(C)[C@@H](C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])NC(=O)OCC2=CC=CC=C2 | C19H20N2O6
reactant | H-Gly-Ala-Pro-OtBu | 2.99 g | NCC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1 | C14H25N3O4
solvent | ethyl acetate | 12 ml | C(C)(=O)OCC | C4H8O2
product | Z-Val-Gly-Ala-Pro-OtBu | N([C@@H](C(C)C)C(=O)NCC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C27H40N4O7
